US06867185B2
Step D) To a solution of 21.8 g (172 mmol) of m-anisidine in 800 mL of CH2Cl2 cooled to −50° C., was added 172 mL (172 mmol) of 1M BCl3 in heptane over 20 min to produce an amber colored mixture which was stirred 1 h. To this mixture was added 12.2 mL (172 mmol) of AcCl and 22.9 g (172 mmol) of AlCl3. The mixture was allowed to warm to room temperature overnite, poured into ice water, the solution adjusted to pH 9 using 10% aqueous NaOH and was extracted repeatedly using EtOAC. The combined organic extracts were washed with brine, dried (MgSO4), concentrated and the resulting solid recrystallized from the minimal amount of MeOH in CH2Cl2/hexanes (50%) to afford 13.4 g (47%)of slightly impure 2-amino-4-methoxybenzophenone as a crystalline solid. The solid could be taken directly into the next reaction or purified to absolute purity over SiO2 (eluted with 0% to 14% MeOH/CH2Cl2): 1H NMR (500 MHz, CDCl3) δ 2.50 (s, 3H), 3.79 (s, 3H), 6.05 (d, J=2.4 Hz, 1H), 6.21 (dd, J=8.8, 2.4 Hz, 1H), 6.38 (m, 2H), 7.62 (d, J=8.8 Hz, 1H)

reactant | m-anisidine | 172 mmol, 21.8 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | BCl3 | 172 mmol, 1M, 172 mL | B(Cl)(Cl)Cl | BCl3
reactant | AcCl | 172 mmol, 12.2 mL | C(=O)(C)Cl | C2H3ClO
reactant | AlCl3 | 172 mmol, 22.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | 2-amino-4-methoxybenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C14H13NO2
